US09227918B2
To a solution of 9.99 g (56.4 mmol) of (3,4-Dimethoxyphenyl)acetonitrile in 141 mL of tetrahydrofuran (THF) at −30° C., was slowly added 56.4 mL (56.4 mmol) of sodium bis(trimethylsilyl)amide (NaHMDS, 1.0 M in THF). The mixture was stirred at −30° C. for 10 minutes and 10.6 mL (113.0 mmol) of 2-bromopropane was added. The mixture was heated to reflux for 2 hours (h) then left at 22° C. for about 16 h. A saturated aqueous solution of NH4Cl was added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified by flash chromatography on silica gel eluting first with hexane and then gradually increasing to 15% ethyl acetate/hexane to give 2-(3,4-dimethoxyphenyl)-3-methylbutanenitrile as an oil.

reactant | (3,4-Dimethoxyphenyl)acetonitrile | 56.4 mmol, 9.99 g | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | sodium bis(trimethylsilyl)amide | 56.4 mmol, 1.0 M, 56.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-bromopropane | 113.0 mmol, 10.6 mL | BrC(C)C | C3H7Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 141 mL | O1CCCC1 | C4H8O
product | 2-(3,4-dimethoxyphenyl)-3-methylbutanenitrile | COC=1C=C(C=CC1OC)C(C#N)C(C)C | C13H17NO2
